US06482774B1
4-Bromo-3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole
13.7 g (86 mmol) of bromine were added dropwise to a solution of 20 g (78 mmol) of 3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole in 400 ml of carbon tetrachloride, and the mixture was then stirred for 3 days. The reaction solution was subsequently washed with saturated aqueous sodium bicarbonate solution and water, dried over magnesium sulfate and finally concentrated. The crude product was purified by silica gel chromatography (mobile phase: hexane/ethyl acetate =9:1). Yield: 22.4 g. 1H-NMR (270 MHz, in CDCl3): δ[ppm]=2.40 (s, 3H), 4.06 (s, 3H), 7.15-7.25 (m, 2H), 7.48 (t, 1H).

reactant | bromine | 86 mmol, 13.7 g | BrBr | Br2
reactant | 3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole | 78 mmol, 20 g | ClC1=CC(=C(C=C1)C1=NN(C(=C1)SC)C)F | C11H10ClFN2S
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-3-(4-chloro-2-fluorophenyl)-1-methyl-5-methylthio-1H-pyrazole | BrC=1C(=NN(C1SC)C)C1=C(C=C(C=C1)Cl)F | C11H9BrClFN2S
